US06677340B2
To a 250 mL round bottomed flask was charged 2.0 g of 2-fluoro-3-methoxy-benzoic acid in 80 mL of anhydrous toluene. Triethylamine (1.15 eq, 1.88 mL) was added after drying over molecular sieves. After dropwise addition of diphenylphosphoryl azide (1.15 eq, 2.8 mL) in 12 mL toluene, the reaction was stirred for 20 minutes at ambient temperature. The reaction was heated to 95° C., then stirred for 20 minutes. After the reaction was cooled to ambient temperature, 1,2-diamino-2-methyl-propane (1.15 eq, 1.42 mL) was added in 20 mL CH2Cl2. Urea formation was complete in 2 hours. The reaction mixture was diluted with 100 mL H2O and extracted with EtOAc (3×100 mL). The combined organics were washed with brine (1×100 mL), dried over Na2SO4, filtered, and concentrated in vacuo. The residue was filtered over a pad of silica (65×40 mm), impurities eluted with 100%EtOAc, the product eluted with 50%MeOH/CH2Cl2. The eluent was concentrated in vacuo to yield 1.85 g (62%) of 1-(2-Amino-2-methyl-propyl)-3-(2-fluoro-3-methoxy-phenyl)-urea as a brown solid. 1H NMR (CDCl3) δ: 7.61 (dt,1H), 7.0 (dt,1H), 6.61 (dt,1H), 5.75 (bs,1H), 3.87 (s,3H), 3.14 (d,2H), 1.12 (s,6H); MS (CI) m/z 256 (MH+).

reactant | 2-fluoro-3-methoxy-benzoic acid | 2.0 g | FC1=C(C(=O)O)C=CC=C1OC | C8H7FO3
reactant | Triethylamine | 1.88 mL, 1.15 eq | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 2.8 mL, 1.15 eq | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,2-diamino-2-methyl-propane | 1.42 mL, 1.15 eq | NCC(C)(C)N | C4H12N2
reactant | Urea | NC(=O)N | CH4N2O
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 100 mL | O | H2O
product | 1-(2-Amino-2-methyl-propyl)-3-(2-fluoro-3-methoxy-phenyl)-urea | 1.85 g, 62% | NC(CNC(=O)NC1=C(C(=CC=C1)OC)F)(C)C | C12H18FN3O2
